US04643990
Starting from N-hydroxysuccinimide ester of Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine (3 g) prepared above and L-glutamic acid (1.18 g), N-[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-L-glutamic acid (2.4 g) was obtained as crystals according to a similar manner to that of Example 16(2).

reactant | Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine | 3 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C48H84N2O7
reactant | L-glutamic acid | 1.18 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
product | N-[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-L-glutamic acid | 2.4 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CCC(=O)O)C(=O)O)CCCCCCCCCCCCCCC | C53H91N3O10
